US08431563B2
2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (90 mg, 0.163 mmol), phenylboronic acid (23.8 mg, 0.195 mmol, Sigma-Aldrich, St. Louis, Mo.), 1,1′ bis(diphenylphosphino)ferrocene]dichloropalladium (II) (13.28 mg, 0.016 mmol, Sigma-Aldrich, St. Louis, Mo.), and cesium carbonate (159 mg, 0.488 mmol) were combined in THF (3 mL) and water (1 mL). The reaction mixture was stirred and heated in a Discover model microwave reactor (CEM, Matthews, N.C.) at 100° C. for 10 min (100 watts, Powermax feature on, ramp time 5 min). The organic layer was separated and filtered through a PTFE (polytetrafluoroethylene) filter (0.45 micron). This crude material was subjected to reverse-phase preparative HPLC using a Phenomenex Gemini C18 column (150×30 mm, 10 μm) eluting with 0.1% TFA in CH3CN/H2O (10% to 90% over 20 min) to provide 1,1,1,3,3,3-hexafluoro-2-(6-(4-(2-thiophenylsulfonyl)-1-piperazinyl)-3-biphenylyl)-2-propanol trifluoroacetate (43 mg) as a tan oil. 1H NMR (300 MHz, CD3OD) δ 7.89 (d, J=4.8 Hz, 1H), 7.68-7.39 (m, 5H), 7.38-7.20 (m, 4H), 7.14 (d, J=8.6 Hz, 1H), 2.93 (br. s, 8H). m/z (ESI, +ve ion) 550.8 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=2.12 μM; GK-GKRP EC50 (LC MS/MS)=1.75 μM.

reactant | 2-(3-bromo-4-(4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.163 mmol, 90 mg | BrC=1C=C(C=CC1N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C(C(F)(F)F)(C(F)(F)F)O | C17H15BrF6N2O3S2
reactant | phenylboronic acid | 0.195 mmol, 23.8 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | cesium carbonate | 0.488 mmol, 159 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
catalyst | 1,1′ bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium (II) | 0.016 mmol, 13.28 mg | Cl[Pd]Cl
product | 1,1,1,3,3,3-hexafluoro-2-(6-(4-(2-thiophenylsulfonyl)-1-piperazinyl)-3-biphenylyl)-2-propanol trifluoroacetate | 43 mg | FC(C(=O)O)(F)F.FC(C(C(F)(F)F)(O)C=1C=C(C(=CC1)N1CCN(CC1)S(=O)(=O)C=1SC=CC1)C1=CC=CC=C1)(F)F | InChI=1S/C23H20F6N2O3S2.C2HF3O2/c24-22(25,26)21(32,23(27,28)29)17-8-9-19(18(15-17)16-5-2-1-3-6-16)30-10-12-31(13-11-30)36(33,34)20-7-4-14-35-20;3-2(4,5)1(6)7/h1-9,14-15,32H,10-13H2;(H,6,7)
